US07402581B2
(b) 1-{1-[(3S)-3-(3,4-Dichlorophenyl)-4-(methylamino)butyl]azetidin-3-yl}piperidin-4-ol dihydrochloride
The compound was synthesized in an analogous way to that of Method 3e but using tert-butyl {(2S)-2-(3,4-dichlorophenyl)-4-[3-(4-hydroxypiperidin-1-yl)azetidin-1-yl]butyl}methylcarbamate rather than tert-butyl [2-(4-fluorophenyl)-4-(3-thiomorpholin-4-ylazetidin-1-yl)butyl]methylcarbamate (yield, 100%). 1H NMR (500 MHz, CD3OD): 1.8-2.2 (m, 6H), 2.7 (s, 3H), 3.2-4.8 (cm, 17H), 7.4 (dd, 1H), 7.6-7.7 (m, 2H), LCMS: m/z 387 (M+1)+.

reactant | tert-butyl {(2S)-2-(3,4-dichlorophenyl)-4-[3-(4-hydroxypiperidin-1-yl)azetidin-1-yl]butyl}methylcarbamate | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(OC(C)(C)C)=O)C)CCN1CC(C1)N1CCC(CC1)O | C24H37Cl2N3O3
reactant | tert-butyl [2-(4-fluorophenyl)-4-(3-thiomorpholin-4-ylazetidin-1-yl)butyl]methylcarbamate | FC1=CC=C(C=C1)C(CN(C(OC(C)(C)C)=O)C)CCN1CC(C1)N1CCSCC1 | C23H36FN3O2S
product | 1-{1-[(3S)-3-(3,4-Dichlorophenyl)-4-(methylamino)butyl]azetidin-3-yl}piperidin-4-ol dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1Cl)[C@H](CCN1CC(C1)N1CCC(CC1)O)CNC | InChI=1S/C19H29Cl2N3O.2ClH/c1-22-11-15(14-2-3-18(20)19(21)10-14)4-7-23-12-16(13-23)24-8-5-17(25)6-9-24;;/h2-3,10,15-17,22,25H,4-9,11-13H2,1H3;2*1H/t15-;;/m1../s1
